US08937078B2
Step E: Preparation of 1-(4-oxo-7-phenyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
Potassium hydroxide (37.4 mg, 0.666 mmol) was added to a mixture of 1-(4-oxo-7-phenyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (48.0 mg, 0.133 mmol), water (0.8 mL) and THF (0.8 mL). The mixture was stirred for 16 h at 23° C. The reaction mixture was concentrated under reduced pressure to remove the THF and the aqueous residue was acidified to pH 2 with 1M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (42.0 mg, 85%). MS (ESI): mass calcd. for C18H12N4O3, 332.1; m/z found, 333.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 8.45 (d, J=0.8 Hz, 1H), 7.99 (d, J=8.2 Hz, 1H), 7.78-7.72 (m, 2H), 7.62 (d, J=1.5 Hz, 1H), 7.55 (d, J=0.8 Hz, 1H), 7.49 (t, J=7.6 Hz, 2H), 7.41-7.36 (m, 2H).

reactant | Potassium hydroxide | 0.666 mmol, 37.4 mg | [OH-].[K+]
reactant | 1-(4-oxo-7-phenyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.133 mmol, 48.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=CC=C2C(N1)=O)C1=CC=CC=C1 | C20H16N4O3
reactant | water | 0.8 mL | O | H2O
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | 1-(4-oxo-7-phenyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 42.0 mg, 85% | O=C1NC(=NC2=CC(=CC=C12)C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C18H12N4O3
